US04124704
Pyridine (6.5 ml.), 10.3 g. (0.115 mole) of cuprous cyanide and 22.8 g. (0.1 mole) of 7-chloro-3-phenylbenzofuran (shown at column 14, line 30, of U.S. Pat. No. 3,862,134) are heated at 220° C. for about three hours, then at 150° to 190° C. for about 16 hours. The solution is added to 40 g. of ferrous chloride hexahydrate in 65 ml. of water and 15 ml. of concentrated hydrochloric acid. The resulting mixture is heated with stirring at 90° C. for about one hour, then filtered hot. The filtrate is cooled, and the product separated by filtration. The product is heated in a boiling benzene-toluene mixture (200 ml/250 ml), then the mixture is decanted. The decantate is evaporated to half of its volume and separated from the dark, solid residue. The residues are again extracted with a boiling mixture of benzene-toluene (400 ml/200 ml), and the combined organic extracts are washed with 125 ml. 6N hydrochloric acid, water, 10 percent sodium hydroxide and water. The extracts are dried, treated with decolorizing charcoal, then evaporated to provide crude 7-cyano-3-phenylbenzofuran which is recrystallized from a mixture of benzene and petroleum ether. The white product has a m.p. 143°-145° C.

reactant | Pyridine | 6.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 7-chloro-3-phenylbenzofuran | 0.1 mole | ClC1=CC=CC=2C(=COC21)C2=CC=CC=C2 | C14H9ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 7-cyano-3-phenylbenzofuran | C(#N)C1=CC=CC=2C(=COC21)C2=CC=CC=C2 | C15H9NO
